US09079880B2
Cool a solution 3-((R)-1-carboxy-ethoxy)-benzoic acid methyl ester (0.50 g, 1.90 mmol) in pyridine (5 mL), to 0° C., and add 4-aminobenzonitrile (0.28 g, 2.33 mmol) followed by phosphorous oxychloride (0.22 mL, 2.4 mmol). Stir the mixture at 0° C. for 1 h then dilute with water and concentrate under reduced pressure. Purify the residue by flash silica gel chromatography to provide 0.59 g of 3-[(R)-1-(4-cyano-phenylcarbamoyl)-ethoxyl]-benzoic acid methyl ester as an oil.

reactant | 3-((R)-1-carboxy-ethoxy)-benzoic acid methyl ester | 1.90 mmol, 0.50 g | COC(C1=CC(=CC=C1)O[C@H](C)C(=O)O)=O | C11H12O5
reactant | 4-aminobenzonitrile | 2.33 mmol, 0.28 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | phosphorous oxychloride | 2.4 mmol, 0.22 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-[(R)-1-(4-cyano-phenylcarbamoyl)-ethoxyl]-benzoic acid methyl ester | 0.59 g | COC(C1=CC(=CC=C1)O[C@H](C)C(NC1=CC=C(C=C1)C#N)=O)=O | C18H16N2O4
